US04960779
An oily suspension (50% by weight; 3.1 g) of sodium hydride is added in small portions at a temperature in the region of -5° C. to a solution, maintained under a nitrogen atmosphere, of 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (10 g) in anhydrous dimethylformamide (195 cc), and the suspension obtained is stirred for 30 minutes at a temperature in the region of -5° C. A solution of 2-hexanone (6.5 g) in anhydrous dimethylformamide (5 cc) is then added and stirring is continued for 8 hours at a temperature in the region of 0° C. and then for 16 hours at a temperature in the region of 20° C. The reaction mixture is then poured into water (1.5 litres). The solid obtained is separated by filtration, washed with water and dried in the air. After recrystallization in ethanol, 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-(2-oxohexyl)-1-isoindolinone (3.6 g), m.p. 161° C., is obtained.

reactant | sodium hydride | 3.1 g | [H-].[Na+]
reactant | 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 10 g | OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC | C17H13N3O3
reactant | 2-hexanone | 6.5 g | CC(CCCC)=O | C6H12O
reactant | water | 1.5 litres | O | H2O
solvent | dimethylformamide | 195 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 cc | CN(C=O)C | C3H7NO
product | 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-(2-oxohexyl)-1-isoindolinone | 3.6 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1CC(CCCC)=O)=O | C23H23N3O3
